* C:\git\ltspice-projects\Moog filter - xm8 half volt octave - output vca.asc
Q1 N020 N022 N025 0 BC547C
Q2 N013 N016 N020 0 BC547C
Q3 N002 N009 N013 0 BC547C
Q4 N007 N009 N014 0 BC547C
Q5 N014 N016 N021 0 BC547C
Q6 N021 N022 N026 0 BC547C
C1 N014 N013 22n
C2 N021 N020 22n
C3 N026 N025 22n
C4 N007 N002 22n
Q7 15V N001 N007 0 CA3046
Q8 15V N001 N002 0 CA3046
V1 15V 0 15
R1 N016 N022 1k
R2 N009 N016 1k
R3 N001 N009 1k
R4 15V N001 5k9
Q9 N025 N030 N033 0 CA3046
Q10 N026 N031 N033 0 CA3046
R5 N033 N041 1k
R6 N030 N037 1k
R7 N022 N037 1k
R8 N031 N037 1k
V2 0 -15V 15
C7 N029 N027 10µ V=63 Irms=200m Rser=1.3 Lser=0
R19 N037 0 2k7
C8 N037 0 220µ V=63 Irms=200m Rser=1.3 Lser=0
V3 Audio 0 SINE(0 5 500) AC 1
V4 cv 0 4
XU2 N004 N002 N003 opamp Aol=100K GBW=10Meg
XU5 N012 N007 N010 opamp Aol=100K GBW=10Meg
R11 N003 N004 10k
R12 N012 N004 5k1
R13 N012 N010 10k
R14 N005 N003 10k
R15 N011 N010 10k
R17 N030 N029 39k
XU7 N028 0 N027 opamp Aol=100K GBW=10Meg
R24 N027 N028 100k
R25 N028 Audio 100k
XU8 NC_01 N019 N018 N032 N024 15V -15V NC_02 NC_03 HALF13700
R26 N024 N031 1k
R27 N019 N018 51
R28 P001 N019 50k
XU1 0 15V P001 pot_lin Rtot=10K wiper=0.5
Q12 N034 0 N035 0 2N3906
R30 N036 N035 3k3
V5 N036 0 5
R29 N032 N034 10k
R31 N010 N019 200
R39 N003 N018 200
Q11 N040 N042 N043 0 CA3046
Q13 N041 0 N043 0 CA3046
R18 15V N040 1MEG
R20 N043 N044 2k2
C9 N044 N040 1n
XU3 N040 N045 N044 opamp Aol=100K GBW=10Meg
R21 N045 0 1000k
D1 N044 0 D
XU9 N039 0 N042 pot_lin Rtot=2K2 wiper=.825
XU10 N038 0 N039 opamp Aol=100K GBW=10Meg
R23 N039 N038 2k2
R32 N038 cv 50k
R33 N038 P002 220k
XU4 15V -15V P002 pot_lin Rtot=220K wiper=0.1
XU6 NC_04 N005 N011 N015 N008 15V -15V NC_05 NC_06 HALF13700
R16 N008 0 30.2k
Q14 N017 0 N023 0 2N3906
R22 P003 N023 10k
V6 P003 0 5
R35 N015 N017 15k
XU12 N008 N006 N006 opamp Aol=100K GBW=10Meg
R9 N011 0 500
R10 0 N005 500
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
;tran 0 0.2 0
.lib opamp.sub
.lib LTC.lib
.lib lm13700.sub
* XM8 moog ladder filter\n0.5V octave\n13Hz to 13kHz with U4 at 0.1\nTODO: Test filter for self oscillation
;tran 0 0.05 0
.lib LTC.lib
.lib lm13700.sub
;tran 0.1
.ac oct 100 10 50000
* Resonance går bananas når cutoff CV=5
.lib potentiometer_standard.lib
.backanno
.end
