* C:\git\ltspice-projects\Moog filter - xm8 half volt octave - output vca.asc
Q1 N020 N022 N025 0 BC547C
Q2 N013 N016 N020 0 BC547C
Q3 N002 N010 N013 0 BC547C
Q4 N009 N010 N014 0 BC547C
Q5 N014 N016 N021 0 BC547C
Q6 N021 N022 N026 0 BC547C
C1 N014 N013 22n
C2 N021 N020 22n
C3 N026 N025 22n
C4 N009 N002 22n
Q7 15V N001 N009 0 CA3046
Q8 15V N001 N002 0 CA3046
V1 15V 0 15
R1 N016 N022 1k
R2 N010 N016 1k
R3 N001 N010 1k
R4 15V N001 5k9
Q9 N025 N030 N033 0 CA3046
Q10 N026 N031 N033 0 CA3046
R5 N033 N041 1k
R6 N030 N037 1k
R7 N022 N037 1k
R8 N031 N037 1k
V2 0 -15V 15
C7 N029 N027 10µ V=63 Irms=200m Rser=1.3 Lser=0
R19 N037 0 2k7
C8 N037 0 220µ V=63 Irms=200m Rser=1.3 Lser=0
V3 Audio 0 SINE(0 5 500) AC 1
V4 CUTOFF_CV 0 0
XU2 N004 N002 N003 opamp Aol=100K GBW=10Meg
XU5 N012 N009 N011 opamp Aol=100K GBW=10Meg
R11 N003 N004 10k
R12 N012 N004 5k1
R13 N012 N011 10k
R14 N005 N003 100
R15 N006 N011 100
R17 N030 N029 39k
XU7 N028 0 N027 opamp Aol=100K GBW=10Meg
R24 N027 N028 1k
R25 N028 Audio 100k
XU8 NC_01 N019 N018 N032 N024 15V -15V NC_02 NC_03 HALF13700
R26 N024 N031 1k
R27 N019 N018 51
R28 P001 N019 50k
XU1 0 15V P001 pot_lin Rtot=10K wiper=0.5
Q12 N034 0 N035 0 2N3906
R30 N036 N035 10k
R29 N032 N034 15k
R31 N011 N019 200
R39 N003 N018 200
Q11 N040 N042 N043 0 CA3046
Q13 N041 0 N043 0 CA3046
R18 15V N040 1MEG
R20 N043 N044 10k
C9 N044 N040 100p
XU3 N040 N045 N044 opamp Aol=100K GBW=10Meg
R21 N045 0 1000k
XU10 N038 0 N039 opamp Aol=100K GBW=10Meg
R32 N038 CUTOFF_CV 50k
R33 N038 P002 270k
XU4 15V -15V P002 pot_lin Rtot=10K wiper=0.5
XU6 NC_04 N006 N005 N015 N007 15V -15V NC_05 NC_06 HALF13700
R16 N008 N007 120k
Q14 N017 0 N023 0 2N3906
R22 VCA_CV N023 10k
R35 N015 N017 15k
XU12 N007 0 N008 opamp Aol=100K GBW=10Meg
R10 P003 N006 10k
XU11 15V 0 P003 pot_lin Rtot=10K wiper=.493
XU13 N036 RESO_CV RESO_CV pot_lin Rtot=50K wiper=0.95
V7 RESO_CV 0 0
V8 VCA_CV 0 5
R9 N039 N042 56k
R34 N042 0 1k
R23 P004 N038 68k
XU9 P004 N039 N039 pot_lin Rtot=50K wiper=0.3
R36 N038 -15V 220k
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
;tran 0.1
.lib opamp.sub
.lib LTC.lib
.lib lm13700.sub
* XM8 moog ladder filter\n0.5V octave\n13Hz to 13kHz with U4 at 0.1\nTODO: Test filter for self oscillation
;tran 0 0.05 0
.lib LTC.lib
.lib lm13700.sub
;tran 0.1
.ac oct 100 1 50000
* Audio:\nMax 10vp.p: R24: 2.2k, R16: 56k (or 33k + 50k pot)\nMax 20v p.p: R24: 1k, R16: 120k ( or 100k + 50k pot)
* Flipping inputs here\ncompensates for \ninverting output
* This seems extremely\nsensitive, try in \npractice
* Transimpedance amp\nextends cutoff range\n(but does this change\nthe original sound\ntoo much?)
* 3300ppm\ntempco
* Tracking
* Centered pot gives about\n10Hz to 10kHz range for\n0 to 5V CV, mix multiple\nCVs to extend range\nor replace 50k resistor
* 1V/oct mixing point,\nuse 100k input for 1V/oct.\nCV is 0.5V/oct with 50k res
.lib potentiometer_standard.lib
.backanno
.end
